US07238714B2
Step 1. Methyl 5-chloro-2-(3-methoxybenzyl)nicotinate
The title compound was prepared according to the procedure described in step 2 of Example 58 from methyl 2,5-dichloronicotinate and 3-methoxybenzylzinc chloride: 1H-NMR (CDCl3) δ 8.64 (1H, d, J=2.5 Hz), 8.16 (1H, d, J=2.5 Hz), 7.17 (1H, t, J=7.9 Hz), 6.83–6.70 (3H, m), 4.53 (2H, s), 3.88 (3H, s), 3.75 (3H, s).

reactant | methyl 2,5-dichloronicotinate | ClC1=C(C(=O)OC)C=C(C=N1)Cl | C7H5Cl2NO2
reactant | 3-methoxybenzylzinc chloride | [Cl-].COC=1C=C(C[Zn+])C=CC1
product | Methyl 5-chloro-2-(3-methoxybenzyl)nicotinate | ClC=1C=NC(=C(C(=O)OC)C1)CC1=CC(=CC=C1)OC | C15H14ClNO3
